US06174884B1
6-(3,4-Dimethoxy-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one
Starting from 400 mg (1.32 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazol-4-carboxamide and 711 mg (3.32 mmol) of 3,4-dimethoxyphenylacetylchloride, the title compound is obtained analogously to the protocol of Example 13.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazol-4-carboxamide | 1.32 mmol, 400 mg | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | 3,4-dimethoxyphenylacetylchloride | 3.32 mmol, 711 mg | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
product | 6-(3,4-Dimethoxy-benzyl)-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one | COC=1C=C(CC=2NC(C3=C(N2)N(N=C3)C(CCCC3=CC=CC=C3)C(C)O)=O)C=CC1OC | C26H30N4O4
